*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/4.70e-03[uF]/250[V]
* Murata P/N :GCM21B5C2E472FX01
* Property : C = 4.70e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-1000[MHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21B5C2E472FX01 Port1 Port2
C01 Port1 N01 4.70e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 1.19e-10
R03 N02 N03 8.37e-03
C04 N03 N04 1.88e-07
R04 N03 N04 3.89e+01
L05 N04 N05 9.13e-11
R05 N04 N05 4.58e-01
L06 N05 N06 6.23e-11
R06 N05 N06 1.67e-02
C07 N06 N07 2.35e-08
L07 N06 N07 3.00e-11
R07 N06 N07 3.29e-01
C08 N07 N08 9.05e-09
L08 N07 N08 3.48e-11
R08 N07 N08 4.42e-01
C09 N08 N09 4.73e-08
L09 N08 N09 3.29e-12
R09 N08 N09 5.49e-02
C10 N09 N10 1.12e-08
L10 N09 N10 8.98e-12
R10 N09 N10 1.40e-01
C11 N10 Port2 8.81e-13
L11 N10 Port2 3.02e-10
R11 N10 Port2 3.04e+02
.ENDS GCM21B5C2E472FX01
